US07419984B2
Following the method described in Example 26, 4-(5-chloro-2-methyl-phenyl)-6-chloro-pyrimidin-2-ylamine and 3-[4-(4-amino-phenyl)-oxazol-2-yl]-propionic acid methyl ester provided 3-(4-{4-[2-amino-6-(5-chloro-2-methyl-phenyl)-pyrimidin-4-ylamino]-phenyl}-oxazol-2-yl)-propionic acid methyl ester.

reactant | 4-(5-chloro-2-methyl-phenyl)-6-chloro-pyrimidin-2-ylamine | ClC=1C=CC(=C(C1)C1=NC(=NC(=C1)Cl)N)C | C11H9Cl2N3
reactant | 3-[4-(4-amino-phenyl)-oxazol-2-yl]-propionic acid methyl ester | COC(CCC=1OC=C(N1)C1=CC=C(C=C1)N)=O | C13H14N2O3
product | 3-(4-{4-[2-amino-6-(5-chloro-2-methyl-phenyl)-pyrimidin-4-ylamino]-phenyl}-oxazol-2-yl)-propionic acid methyl ester | COC(CCC=1OC=C(N1)C1=CC=C(C=C1)NC1=NC(=NC(=C1)C1=C(C=CC(=C1)Cl)C)N)=O | C24H22ClN5O3
